US06248766B1
A mixture of ethyl[(2-hydroxy-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate (1.40 g, 4.58 mmol), sodium hydride (60% dispersion in liquid paraffin, 200 mg, 5.00 mmol), 3,3-diphenylpropyl iodide (1.60 g, 5.04 mmol), and N,N-dimethylformamide (30 ml) was stirred at 70° C. for 2 hours. This reaction mixture was poured into water (50 mL) and extracted with 2 portions of ethyl acetate. The pooled organic solution was washed with water, dried over MgSO4, and filtered and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=8:1) to provide 810 mg of ethyl[[2-(3,3-diphenylpropyl)oxy-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]acetate. To a solution of this compound (700 mg, 1.40 mmol) in a mixture of tetrahydrofuran (8 mL) and methanol (2 mL) was added 1N-aqueous sodium hydroxide solution (1.4 mL) dropwise and the mixture was stirred at room temperature for 5 minutes. To this reaction mixture was added 1N-hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure and the residue was recrystallized from ethyl acetate-hexane to provide 500 mg of the title compound. Yield 24%.

reactant | ethyl[(2-hydroxy-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | 4.58 mmol, 1.40 g | C(C)OC(COC1=C2CCC3=C(N=C(S3)O)C2=CC=C1)=O | C15H15NO4S
reactant | sodium hydride | 5.00 mmol, 200 mg | [H-].[Na+]
reactant | 3,3-diphenylpropyl iodide | 5.04 mmol, 1.60 g | C1(=CC=CC=C1)C(CCI)C1=CC=CC=C1 | C15H15I
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | ethyl[[2-(3,3-diphenylpropyl)oxy-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]acetate | 810 mg | C(C)OC(COC1=C2CCC3=C(N=C(S3)OCCC(C3=CC=CC=C3)C3=CC=CC=C3)C2=CC=C1)=O | C30H29NO4S
